US05576359
To a suspension of sodium p-hydroxybenzenesulfonate (40 g, 0.17 mole) in a solution of NaOH (9.61 g, 0.24 mole) and H2O (55 ml), a solution of benzyl chloride (27.6 g, 0.22 mole) in ethanol (35 ml) was added dropwise, and continued to stir for 5 hours under reflux. After standing at room temperature overnight, the precipitate was filtered, washed with H2O and dried to afford 35.2 g of sodium p-benzyloxybenzenesulfonate as white crystals.

reactant | sodium p-hydroxybenzenesulfonate | 0.17 mole, 40 g | OC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+]
reactant | NaOH | 0.24 mole, 9.61 g | [OH-].[Na+]
reactant | H2O | 55 ml | O | H2O
reactant | benzyl chloride | 0.22 mole, 27.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | sodium p-benzyloxybenzenesulfonate | 35.2 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C13H12O4S.Na/c14-18(15,16)13-8-6-12(7-9-13)17-10-11-4-2-1-3-5-11;/h1-9H,10H2,(H,14,15,16);/q;+1/p-1
